US06900209B2
Step 5: 1-Methyl-1-{2-[3-(5-methylisoxazol-3-yl)[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-5-yl}ethylamine
The reaction was carried out as described in Example 1, Step 4 using 1-[2-(hydroxymethyl)pyridin-5-yl](1-methyl)ethylamine (330 mg, 1.98 mmol) and 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine to give after column chromatography on silica, eluting with 4% MeOH/CH2Cl2 containing 1% NH3 solution, the title compound (504 mg, 61%) which was recrystallised from CH2Cl2/hexanes.

reactant | 1-[2-(hydroxymethyl)pyridin-5-yl](1-methyl)ethylamine | 1.98 mmol, 330 mg | OCC1=NC=C(C=C1)C(C)(C)N | C9H14N2O
reactant | 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C13H8ClN5O
product | 1-Methyl-1-{2-[3-(5-methylisoxazol-3-yl)[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-5-yl}ethylamine | CC(C)(C=1C=CC(=NC1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C)N | C22H21N7O2
